US07282501B2
Step E: 3-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-hydroxy-phenyl]-propionic acid tert-butyl ester
A 1 gallon autoclave was charged with 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-hydroxy-phenyl]-acrylic acid tert-butyl ester (196 g, 0.517 mol), ethyl acetate (2.6 L) and 5% palladium on carbon (75 g). The autoclave was kept at 25° C. under 60 psi of hydrogen for 21 h. The temperature of the reaction was increased to 40° C., and the pressure was increased to 75 psi for 5 h. The mixture was filtered through a pad of hyflo and concentrated to the title compound (186 g, 94.4%): MS (ESI) m/z 380.2 (M−H)−.

reactant | 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-hydroxy-phenyl]-acrylic acid tert-butyl ester | 0.517 mol, 196 g | C(C)(C)(C)OC(C=CC1=C(C=C(C=C1)O)CN1C(C2=CC=CC=C2C1=O)=O)=O | C22H21NO5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 75 g | [Pd] | Pd
solvent | ethyl acetate | 2.6 L | C(C)(=O)OCC | C4H8O2
product | 3-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-hydroxy-phenyl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CN1C(C2=CC=CC=C2C1=O)=O)=O | C22H23NO5
